US05109012
A solution of 2,6-dichloro-4-trifluoromethylphenylhydrazine (5.0 g), 2,4-pentanedione (2.1 ml) and conc. sulphuric acid (0.8 ml) in ethanol (40 ml) was heated under reflux for 20 hours. The ethanol was evaporated under reduced pressure and the residue dissolved in dichloromethane. The extract was washed with sodium bicarbonate solution and brine, dried over magnesium sulphate and evaporated to give 3,5-dimethyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole.

reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 5.0 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | 2,4-pentanedione | 2.1 ml | CC(CC(C)=O)=O | C5H8O2
reactant | sulphuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3,5-dimethyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole | CC1=NN(C(=C1)C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C12H9Cl2F3N2
